US04753941
The procedure is similar to that described in Example 3, but starting with 2-amino-7-methoxynaphthyridine (3.5 g), 3-acetoxybenzoyl chloride (4.4 g) and anhydrous pyridine (40 cc). The reaction mixture is poured into water (400 cc) and the precipitate obtained is separated by filtration and then washed with water (6×100 cc) and dried in the air. On recrystallization from ethanol (140 cc) of the product thereby obtained, N-(7-methoxy-1,8-naphthyridin2-yl)-3-acetoxybenzamide (5.3 g), m.p. 172° C., is obtained.

reactant | 2-amino-7-methoxynaphthyridine | 3.5 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
reactant | 3-acetoxybenzoyl chloride | 4.4 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
reactant | pyridine | 40 cc | N1=CC=CC=C1 | C5H5N
solvent | water | 400 cc | O | H2O
product | N-(7-methoxy-1,8-naphthyridin2-yl)-3-acetoxybenzamide | 5.3 g | COC1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)OC(C)=O)=O | C18H15N3O4
